Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][O:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.8506340353
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10][H:11]>>[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10][H:11],3.87008586
[H:1][O:2][C:3]([H:4])[C:6]#[C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][O:8][C:9]([H:10])([H:11])[H:12],-3.64411207744
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([C:8][H:9])=[C:10][H:11]>>[C:8][H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:10][H:11],2.95362614422
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13]>>[C:3]([H:4])([H:5])[H:6].[O:1]=[C:2][C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13],3.83096621831
[C:8]([H:9])(=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7]>>[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C@@:8]([H:9])([C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],0.51392544067
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2][H:3],5.22769024998
[H:1][O:2][C:3]/[C:4]([O:5][H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]#[C:4][O:5][H:6],4.80843834038
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[C:17]([H:18])([H:19])[H:20]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])[C:14]([H:15])([H:16])[C:17]([H:18])([H:19])[H:20].[H:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],3.74691886116
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][H:13]>>[O:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][H:13],2.80367974852
[H:12].[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]=[C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-4.83611201494
[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[H:7],0.590252610429
[C:12][C:13]([H:14])([H:15])[H:16].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[H:11]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16],-3.74013826878
[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8][C:10]([H:11])([H:12])[H:13].[H:9],3.97127382758
[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([H:4])[C:5]([H:6])([H:7])[H:8].[O:1]=[C:2][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],4.90003071064
[H:12].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])/[C:10]=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16],-1.81217944566
[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10]>>[C:2]([H:3])=[C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10].[O:1],5.99851999016
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])[O:9][H:10].[H:8]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[O:9][H:10],-4.09058315057
[H:1][C:2]#[C:3][O:4][C:5]=[C:6]([H:7])[H:8].[H:9]>>[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])([H:8])[H:9],-2.9472745645800003
[C:1]#[C:2][O:3][C:4]#[C:5][H:6].[O:7][H:8]>>[C:1]#[C:2][O:3][C:4](=[C:5][H:6])[O:7][H:8],-3.70329417934
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13]>>[C:2](#[C:3][C:4]([H:5])([H:6])[H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13].[H:1],1.6217865979799997
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]=[O:8],0.942432588381
[C:5]([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[O:4]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.56376764849
[C:1]#[C:2][C:6]([C:4](=[C:3])[H:5])[O:7][H:8]>>[C:1]=[C:2]1[C:3][C:4]([H:5])=[C:6]1[O:7][H:8],-0.0193724195295999
[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:14].[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13],4.60413388642
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:9]/[O:10][C:11]([H:12])([H:13])[H:14].[H:8],3.15104105699
[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([C:6](=[O:7])[H:8])[C:9]([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([C:6](=[O:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.61782893333
[C:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7][O:8][H:9]>>[C:1].[C:2]([H:3])=[C:4]([H:5])[O:6][C:7][O:8][H:9],5.03354739046
